US05082943
Ethyl 2-amino-5-methylbenzoate was treated with dimethylsulfuric acid to give a N-methylated product. The N-methylated product was reduced using lithium aluminum hydride to give 5-methyl-2-methylaminobenzyl alcohol. The obtained alcohol was reacted with thionyl chloride in benzene to give the desired compound, yield 22% (based on the amount of the starting benzoate).

reactant | Ethyl 2-amino-5-methylbenzoate | NC1=C(C(=O)OCC)C=C(C=C1)C | C10H13NO2
reactant | dimethylsulfuric acid | COS(OC)(=O)=O | C2H6O4S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 5-methyl-2-methylaminobenzyl alcohol | CC=1C=CC(=C(CO)C1)NC | C9H13NO
